US07700595B2
3-Benzyl-8-chloro-4-{3-[(1-methyl-1H-indol-7-yl)methoxy]phenyl}cinnoline
A mixture of 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenol (0.045 g, 0.13 mmol), polymer supported PPh3 (0.3 g, ˜1 mmol) in methylenechloride (5 mL) was stirred at room temperature for 30 minutes. (1-Methyl-1H-indol-7-yl)-methanol (0.045 g, 0.28 mmol) and DIAD (0.045 g, 0.23 mmol) in 1 mL of methylenechloride was added drop wise. After 1 hr, the reaction was filtered, concentrated and purified by semi-preparative HPLC to give a pale yellowish solid (0.025 g). MS (ESI) m/z 490.

reactant | 3-(8-chloro-3-phenyl-cinnolin-4-yl)-phenol | 0.13 mmol, 0.045 g | ClC=1C=CC=C2C(=C(N=NC12)C1=CC=CC=C1)C=1C=C(C=CC1)O | C20H13ClN2O
reactant | PPh3 | ˜1 mmol, 0.3 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | (1-Methyl-1H-indol-7-yl)-methanol | 0.28 mmol, 0.045 g | CN1C=CC2=CC=CC(=C12)CO | C10H11NO
reactant | DIAD | 0.23 mmol, 0.045 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | methylenechloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylenechloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 3-Benzyl-8-chloro-4-{3-[(1-methyl-1H-indol-7-yl)methoxy]phenyl}cinnoline | 0.025 g | C(C1=CC=CC=C1)C=1N=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OCC=1C=CC=C2C=CN(C12)C)Cl | C31H24ClN3O
